*  Generated for: PrimeSim
*  Design library name: cp_lib1
*  Design cell name: conv_nand_tb
*  Design view name: schematic
.lib 'saed32nm.lib' TT

*Custom Compiler Version S-2021.09
*Tue Mar  1 09:05:58 2022

.global gnd!
********************************************************************************
* Library          : cp_lib1
* Cell             : conv_nand
* View             : schematic
* View Search List : hspice hspiceD schematic spice veriloga
* View Stop List   : hspice hspiceD
********************************************************************************
.subckt conv_nand a b op
xm1 op a net42 net42 p105 w=0.1u l=0.03u nf=1 m=1
xm0 op b net42 net42 p105 w=0.1u l=0.03u nf=1 m=1
xm3 net27 b gnd! gnd! n105 w=0.1u l=0.03u nf=1 m=1
xm2 op a net27 gnd! n105 w=0.1u l=0.03u nf=1 m=1
v4 net42 gnd! dc=1.2
.ends conv_nand

********************************************************************************
* Library          : cp_lib1
* Cell             : conv_nand_tb
* View             : schematic
* View Search List : hspice hspiceD schematic spice veriloga
* View Stop List   : hspice hspiceD
********************************************************************************
xi0 a b net1 conv_nand
v2 b gnd! dc=0 pulse ( 0 1.2 0 100p 100p 2n 10n )
v1 a gnd! dc=0 pulse ( 0 1.2 0 100p 100p 2n 10n )








.tran '0.1n' '60n' name=tran

.option primesim_remove_probe_prefix = 0
.probe v(*) i(*) level=1
.probe tran v(a) v(b) v(net1)

.temp 25



.option primesim_output=wdf


.option parhier = LOCAL






.end
